US06291464B1
To a solution of 25% hydrogen bromide-acetic acid (1.5 ml) and anisole (0.09 ml) was added N-(4-benzyloxycarbonyl-1-homopiperazinyl)-p-fluorobenzamide (529 mg) dropwise for 3 minutes under nitrogen atmosphere. The reaction mixture was stirred at ambient temperature for 3.5 hours and diluted with diethyl ether. The resulting precipitate was collected and washed with diethyl ether to give N-(l-homopiperazinyl)-4-fluorobenzamide hydrobromide (606 mg). This product was used for next step without further purification.

reactant | hydrogen bromide acetic acid | 1.5 ml | Br.C(C)(=O)O
reactant | anisole | 0.09 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | N-(4-benzyloxycarbonyl-1-homopiperazinyl)-p-fluorobenzamide | 529 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CCC1)NC(C1=CC=C(C=C1)F)=O | C20H22FN3O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(l-homopiperazinyl)-4-fluorobenzamide hydrobromide | 606 mg | Br.N1(CCNCCC1)NC(C1=CC=C(C=C1)F)=O | InChI=1S/C12H16FN3O.BrH/c13-11-4-2-10(3-5-11)12(17)15-16-8-1-6-14-7-9-16;/h2-5,14H,1,6-9H2,(H,15,17);1H
